US07122545B2
0.05 g of 2-(1H-Benzoimidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole (0.14 mmol) were dissolved in dry DMF (2.0 ml) and treated with 0.005 g NaH (65% in oil, 0.14 mmol) at 0° C. After stirring at ambient temperature for 1 h, 25 μl MeI (0.4 mmol) was added and the reaction mixture was stirred for 16 h. The suspension was filtered and the residue on the filter dried in vacuo. One obtained 0.042 g of 4-methoxy-2-(1-methyl-1H-benzoimidazol-2-yl)-7-morpholin-4-yl-benzothiazole (81%) as a yellow solid; M.p.: 283–285° C.

reactant | 2-(1H-Benzoimidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole | 0.14 mmol, 0.05 g | N1C(=NC2=C1C=CC=C2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C19H18N4O2S
reactant | NaH | 0.14 mmol, 0.005 g | [H-].[Na+]
reactant | MeI | 0.4 mmol, 25 μl | CI | CH3I
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 4-methoxy-2-(1-methyl-1H-benzoimidazol-2-yl)-7-morpholin-4-yl-benzothiazole | 0.042 g, 81% | COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(N2C)C=CC=C1)N1CCOCC1 | C20H20N4O2S
